US09085540B2
To a mixture of trans-4-dimethylaminocrotonic acid hydrochloride (113 mg) and acetonitrile (1.9 mL) were added oxalyl dichloride (55 μL) and N,N-dimethylformamide (2 droplets) under ice-cooling, followed by stirring at room temperature for 2 hours. To a mixture of 5-(3-aminophenoxy)-6-ethyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide (190 mg) and N-methylpyrrolidone (3.8 mL) was added a solution of the acid chloride prepared above under ice-cooling, followed by stirring at room temperature overnight. The reaction mixture was diluted with ethyl acetate, and then washed with a saturated aqueous sodium hydrogen carbonate solution and saturated brine. The organic phase was dried over anhydrous magnesium sulfate and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent; chloroform:methanol:28% aqueous ammonia=1:0:0-100:10:1). Ethyl acetate was added thereto and the precipitated solid was collected by filtration and then dried under reduced pressure to obtain 5-(3-{[(2E)-4-(dimethylamino)buta-2-enoyl]amino}phenoxy)-6-ethyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide (107 mg) as a pale yellow solid.

reactant | trans-4-dimethylaminocrotonic acid hydrochloride | 113 mg | Cl.CN(C/C=C/C(=O)O)C
reactant | acetonitrile | 1.9 mL | C(C)#N | C2H3N
reactant | oxalyl dichloride | 55 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-(3-aminophenoxy)-6-ethyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide | 190 mg | NC=1C=C(OC=2N=C(C(=NC2CC)C(=O)N)NC2=CC=C(C=C2)N2CCN(CC2)C)C=CC1 | C24H29N7O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N-methylpyrrolidone | 3.8 mL | CN1C(CCC1)=O | C5H9NO
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(3-{[(2E)-4-(dimethylamino)buta-2-enoyl]amino}phenoxy)-6-ethyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide | 107 mg | CN(C/C=C/C(=O)NC=1C=C(OC=2N=C(C(=NC2CC)C(=O)N)NC2=CC=C(C=C2)N2CCN(CC2)C)C=CC1)C | C30H38N8O3
